US08748418B2
A suspension of (5R,6R)-6-fluoro-5-(2-fluoro-5-nitro-phenyl)-5-methyl-2,5,6,7-tetrahydro-1,4-oxazepin-3-ylamine (1.0 mmol) in ethanol (9 ml) and Pd/C (10%, 100 mg) was hydrogenated at 22° C. and atmospheric pressure for 2 h. The suspension was filtered and the residue evaporated to give (5R,6R)-5-(5-amino-2-fluoro-phenyl)-6-fluoro-5-methyl-2,5,6,7-tetrahydro-1,4-oxazepin-3-ylamine as a yellow solid. MS (ISP): m/z=256.3 [M+H]+.

reactant | (5R,6R)-6-fluoro-5-(2-fluoro-5-nitro-phenyl)-5-methyl-2,5,6,7-tetrahydro-1,4-oxazepin-3-ylamine | 1.0 mmol | F[C@@H]1[C@@](N=C(COC1)N)(C)C1=C(C=CC(=C1)[N+](=O)[O-])F | C12H13F2N3O3
solvent | ethanol | 9 ml | C(C)O | C2H6O
catalyst | Pd/C | 100 mg | [Pd] | Pd
product | (5R,6R)-5-(5-amino-2-fluoro-phenyl)-6-fluoro-5-methyl-2,5,6,7-tetrahydro-1,4-oxazepin-3-ylamine | NC=1C=CC(=C(C1)[C@]1(N=C(COC[C@@H]1F)N)C)F | C12H15F2N3O
